US08604061B2
b) rac-2-(3-Chloro-phenyl)-5,5,5-trifluoro-pentan-1-ol
To a stirred solution of 2-(3-chloro-phenyl)-5,5,5-trifluoro-pentanoic acid (1.75 g, 7 mmol) in tetrahydrofuran (40 ml) under an argon atmosphere was added slowly lithium aluminum hydride (0.4 g, 11 mmol) and the mixture was stirred for 17 hours at room temperature. For work-up water (1.5 ml) and 2N sodium hydroxide solution (0.5 ml) were added and the mixture was stirred for 30 min. After filtration the solvent was evaporated and the residue was purified by column chromatography (SiO2, heptane/EtOAc=1:1 to yield a colourless oil, (1.25 g, 75%); MS (EI): 311.0 ((M+OAc)+.).

reactant | 2-(3-chloro-phenyl)-5,5,5-trifluoro-pentanoic acid | 7 mmol, 1.75 g | ClC=1C=C(C=CC1)C(C(=O)O)CCC(F)(F)F | C11H10ClF3O2
reactant | lithium aluminum hydride | 11 mmol, 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | sodium hydroxide | 2N, 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | rac-2-(3-Chloro-phenyl)-5,5,5-trifluoro-pentan-1-ol | ClC=1C=C(C=CC1)C(CO)CCC(F)(F)F | C11H12ClF3O
